US06090813
4-(1-(4-Pyrimidinyl)piperazin-4-ylcarbonyl)piperidine (385 mg; 1.4 mmol) in CH2Cl2 (20 ml) was stirred at room temperature as a solid suspension and treated dropwise with 4-Bromobenzenesulfonyl chloride (385 mg; 1.5 mmol) and Et3N (0.4 ml; 3 mmol) in CH2Cl2 (15 ml). The resulting clear yellow solution was stirred at the same temperature for a further 20 h then treated with saturated NaHCO3(aq) (40 ml). The mixture was extracted twice with CH2Cl2 and the combined organic extracts washed twice each with water and brine then dried over anhydrous MgSO4, filtered and evaporated under reduced pressure to a yellow solid. The solid was chromatographed through a 10 g silica bond elut prepacked column, eluting with 1% methanol, 1% ammonium hydroxide and 98% CH2Cl2 to give 1-(4-bromophenylsulphonyl)-4-(1-(4-pyrimidinyl)piperazin-4-ylcarbonyl)piperidine (209 mg; 30% yield based on the amine), a white solid, m.p. 171-174° C.;

reactant | 4-(1-(4-Pyrimidinyl)piperazin-4-ylcarbonyl)piperidine | 1.4 mmol, 385 mg | N1=CN=C(C=C1)N1CCN(CC1)C(=O)C1CCNCC1 | C14H21N5O
reactant | 4-Bromobenzenesulfonyl chloride | 1.5 mmol, 385 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | Et3N | 3 mmol, 0.4 ml | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-bromophenylsulphonyl)-4-(1-(4-pyrimidinyl)piperazin-4-ylcarbonyl)piperidine | 30% yield | BrC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)N1CCN(CC1)C1=NC=NC=C1 | C20H24BrN5O3S
